* C:\Users\malen\Desktop\ELECTRONICA II\electro2-TP1\simulacionesLTspice\sim1.asc
XU1 0 V- N001 0 Vopamp LM321
RL Vo 0 6
V1 N001 0 15
D1 N001 N002 1N4148
D2 N002 N004 1N4148
Q3 Vcrit N004 P001 0 BC557B
R7 N001 P001 820
V2 0 N005 8.4
R1 Vd N005 100
R2 V- Vd 540
R3 Vo V- 890
R6 N004 0 47k
XQ1 N001 Vcrit Vo TIP122
D3 N006 0 1N750
D4 N006 Vd 1N4148
XU2 Vopamp N003 N001 0 Vcrit LM321
R4 Vcrit N003 100k
R5 N003 0 1k
R8 Vopamp 0 100k
.model D D
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 1ms
.inc LM321.MOD
.lib "C:\Program Files\LTC\LTspiceXVII\lib\''TIP122''.lib"
.backanno
.end
