* C:\Users\malen\Desktop\ELECTRONICA II\electro2-TP1\simulacionesLTspice\sim1.asc
XU1 0 V- N001 0 Vopamp LM324
V1 N001 0 15
D1 N001 N002 1N4148
D2 N002 N003 1N4148
Q3 Vopamp N003 P001 0 BC557B
R7 N001 P001 820
V2 0 N006 7.7
R1 Vd N006 100
R2 V- Vd 470
R3 0 V- 900
R6 N003 0 70k
XQ1 N001 Vopamp N004 TIP122
D3 Vd 0 1N750
R4 N004 0 1
R5 N004 N005 604
R8 0 N005 8k4
Q2 Vopamp N005 0 0 BC547B
.model D D
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\malen\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 20ms
.inc LM324.txt
.lib "C:\Program Files\LTC\LTspiceXVII\lib\''TIP122''.lib"
.backanno
.end
